US07632950B2
Synthesis of 5-Methyl-1′,2′,5′,6′-tetrahydro-[2,4′]-bipyridine ((I)-1)
Benzyl bromide in an amount of 10.5 g was added to a solution of 10 g of 5-methyl-2,4′-bipyridine in 70 mL of isopropyl alcohol, and stirred for 5 hours at 50° C. To the resulting reaction solution, 1.0 g of 2% palladium-S carbon and 6.0 g of triethylamine were added. This admixture was put in an autoclave, the autoclave's atmosphere was replaced twice with nitrogen gas under a nitrogen pressure of 196 kPa, and then hydrogen gas was blown into the autoclave over 3 hours at 80° C. under a hydrogen pressure of 196 kPa until the absorption of hydrogen gas in a volume of 4,200 mL was completed. After the replacement with nitrogen, the catalyst was filtered out and the resulting filtrate was concentrated under a reduced pressure of 1.33 kPa until the quantity thereof was reduced to 18.0 g. Further thereto, 50 mL of water and 10 g of a 25% aqueous solution of sodium hydroxide were added. The resulting solution was extracted with three 200 mL portions of ethyl acetate, and the organic layer was concentrated. The thus obtained solid was adsorbed to NH2-modified silica gel (produced by Biotage Japan, Ltd.), and eluted with ethylacetate. The fraction obtained was concentrated, and the crystals thus deposited were dried to give 4.1 g of the intended compound as light yellow crystals. Yield rate: 40%, EI-MS: (m/z) 174 (M+), melting point: 78-80° C.

reactant | Benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-methyl-2,4′-bipyridine | 10 g | CC=1C=CC(=NC1)C1=CC=NC=C1 | C11H10N2
reactant | triethylamine | 6.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | isopropyl alcohol | 70 mL | C(C)(C)O | C3H8O
product | 5-Methyl-1′,2′,5′,6′-tetrahydro-[2,4′]-bipyridine | 4.1 g | CC=1C=CC(=NC1)C1=CCNCC1 | C11H14N2
